US07875728B2
4-[(3,4-dimethoxyphenyl)hydrazono]-4H-pyrazole-3,5-diamine was prepared using 115 mg (0.5 mmol) of 2-[(3,4-dimethoxyphenyl)hydrazono]malononitrile, which was derived from 4-aminoveratrole (153 mg, 1.0 mmol) and malononitrile (1.5 mmol), and hydrazine hydrate. The hydrazine hydrate was added to the solution at a temperature of 75° C. despite the fact that the starting material had not fully dissolved. The solution cleared. Very little solid had formed after heating the reaction at 75° C. for 1 hr, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to ambient temperature and the solvent was evaporated. The residue was dissolved in ethyl acetate and then precipitated by the addition of hexanes. The resulting solid was isolated by filtration and dried to yield 46 mg (35%) of the compound as a mustard coloured solid.

reactant | 2-[(3,4-dimethoxyphenyl)hydrazono]malononitrile | 0.5 mmol, 115 mg | COC=1C=C(C=CC1OC)NN=C(C#N)C#N | C11H10N4O2
reactant | 4-aminoveratrole | 1.0 mmol, 153 mg | NC=1C=C(C(=CC1)OC)OC | C8H11NO2
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 4-[(3,4-dimethoxyphenyl)hydrazono]-4H-pyrazole-3,5-diamine | COC=1C=C(C=CC1OC)NN=C1C(=NN=C1N)N | C11H14N6O2
